US06528517B1
Ethyl 3-((2-Hydroxynaphthyl)amino)-2-((2,3,4,5-tetrafluorophenyl)carbonyl)prop-2-enoate (Compound 5 of FIG. 4C)
Ethyl 2,3,4,5-tetrafluorobenzoylacetate was treated with triethyl orthofomate and acetic anhydrate, then with different aminonaphthols in the presence of pyridine to generate an aminoketoacid. The solution of ethyl 2,3,4,5-tetrafluorobenzoylacetate (1.10 g, 4.18 mmol) in triethylorthoformate (1 ml, 6.06 mmol) and acetic anhydride (1.8 ml, 19 mmol) was heated and stirred at 130° C. for 4 h. During the process, the formed ethyl acetate was removed. The mixture was then distilled under vacuum to yield an orange oil, which was dissolved in 30 ml dichloromethane. 1-aminonaphthalen-2-ol hydrogen chloride (90% pure from Aldrich) (1.36 g, 6.26 mmol), premixed with 2 equivalent of pyridine, was added to the dichloromethane solution, and the mixture was stirred overnight at 22° C. After the solvent was removed under reduced pressure, the remaining residue was absorbed on silica gel and subjected to flash column chromatography (gradient ethylacetate:hexanes=8:4) that yield a bright yellow powder (1.69 g). Yield=93%. 1H NMR (CDCl3) δ 1.02 (t, J=7.2 Hz, 3H), 4.01 (q, J=7.2 Hz, 2H), 4.10 (m, 1H), 7.34 (d, J=9.0 Hz, 1H), 7.41 (m, 1H), 7.60 (m, 2H), 7.82 (8, 2H), 7.91 (d, J=8.1 Hz, 1H), 8.54 (b, 1H).

reactant | Ethyl 2,3,4,5-tetrafluorobenzoylacetate | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1F)F)F | C11H8F4O3
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | ethyl 2,3,4,5-tetrafluorobenzoylacetate | 4.18 mmol, 1.10 g | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1F)F)F | C11H8F4O3
reactant | triethylorthoformate | 6.06 mmol, 1 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 19 mmol, 1.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-aminonaphthalen-2-ol hydrogen chloride | 6.26 mmol, 1.36 g | Cl.NC1=C(C=CC2=CC=CC=C12)O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 2 equivalent | N1=CC=CC=C1 | C5H5N
product | Ethyl 3-((2-Hydroxynaphthyl)amino)-2-((2,3,4,5-tetrafluorophenyl)carbonyl)prop-2-enoate | 1.69 g, Yield=93% | OC1=C(C2=CC=CC=C2C=C1)NC=C(C(=O)OCC)C(=O)C1=C(C(=C(C(=C1)F)F)F)F | C22H15F4NO4
